US05346906
3-Hydroxy-3-(2-pyridinyl)-1-azabicyclo[2.2.2]octane
n-Butyl lithium (1.6M in hexanes, 17.4 ml, 27.9 mmol) was added dropwise to a solution of 2-bromopyridine (2.66 ml, 27.9 mmol) in ether (75 ml) cooled to -70° C. After 30 min a solution of 3-quinuclidinone (3.49 g, 27.9 mmol) in ether (25 ml) was added and the reaction mixture allowed to warm to -20° C. over 1 h. Methanol (50 ml) was added and the solution concentrated. The crude product was chromatographed through silica-gel using dichloromethane/methanol/ammonia (89:10:1) as eluent to give 1.58 g of the title compound as a tan solid. The dihydrochloride salt was prepared; m.p. 210°-5° C.; Found C, 51.82; H, 6.50; N, 9.98. C12H18N2Cl2O requires C, 51.99; H, 6.55; N, 10.10; δ(360 MHz, D2O) 8.792 (1H, d, J=5.4 Hz, py-H), 8.528 (1H, dt, J=8.1, 1.5 Hz, py-H), 8.139 (1H, d, J=8.1 Hz, py-H), 7.961 (1H, t, J=6.7 Hz, py-H), 4.177 (1H, d, J=14.3 Hz, H-2ax), 3.661 (1H, d, J=14.3 Hz, H-2eq), 3.54-3.35 (4H, m, H2 -6 and H2 -7) 2.55-1.65 (5H, m, H-4, H2 -5 and H2 -8); m/e 204 (M+).

reactant | n-Butyl lithium | 27.9 mmol, 1.6M, 17.4 ml | C(CCC)[Li]
reactant | 2-bromopyridine | 27.9 mmol, 2.66 ml | BrC1=NC=CC=C1 | C5H4BrN
reactant | 3-quinuclidinone | 27.9 mmol, 3.49 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | Methanol | 50 ml | CO | CH4O
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 3-Hydroxy-3-(2-pyridinyl)-1-azabicyclo[2.2.2]octane | 1.58 g | OC1(CN2CCC1CC2)C2=NC=CC=C2 | C12H16N2O
